US07732460B2
(h) 4-(3-Hydroxypropyl)-1-{[4-(methyloxy)phenyl]methyl}-1,2-dihydro-3,6-pyridazinedione
Butyl 3-(1-{[4-(methyloxy)phenyl]methyl}-3,6-dioxo-1,2,3,6-tetrahydro-4-pyridazinyl)propanoate (0.43 g, 1.19 mmol) was dissolved in dry THF (20 ml). The solution under argon was cooled to −30° C., treated dropwise with a 1M solution of lithium aluminium hydride in THF (1.4 ml, 1.4 mmol), allowed to warm gradually to 0° C. and stirred in an ice bath for 30 minutes. 2M Hydrochloric acid was added until the pH was 3 and the mixture was partitioned between water and ethyl acetate. The aqueous was re-extracted with ethyl acetate and the combined organic solution dried and evaporated. The resulting solid was triturated under ethyl acetate, filtered off, washed with ethyl acetate and dried under vacuum to give the product (241 mg, 70%).

reactant | Butyl 3-(1-{[4-(methyloxy)phenyl]methyl}-3,6-dioxo-1,2,3,6-tetrahydro-4-pyridazinyl)propanoate | 1.19 mmol, 0.43 g | COC1=CC=C(C=C1)CN1NC(C(=CC1=O)CCC(=O)OCCCC)=O | C19H24N2O5
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Hydrochloric acid | 2M | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 1.4 mmol, 1.4 ml | C1CCOC1 | C4H8O
product | 4-(3-Hydroxypropyl)-1-{[4-(methyloxy)phenyl]methyl}-1,2-dihydro-3,6-pyridazinedione | 241 mg, 70% | OCCCC=1C(NN(C(C1)=O)CC1=CC=C(C=C1)OC)=O | C15H18N2O4
